2154-09-09 07:36:00 Physician Resident Progress Note
Chief Complaint: Sepsis, hyperbilirubinemia
   24 Hour Events:
 BLOOD CULTURED - At [**2154-9-8**] 08:00 PM
 URINE CULTURE - At [**2154-9-9**] 01:33 AM
   - Hypotensive with MAPs high 50s. 500 cc IVF bolus x5.
   - ABG 7.34/30/92, lactate 1.0
   - Urinalysis with 15 WBC, <1 epi.
   - CXR this AM with RLL effusion vs infiltrate. If effusion, likely
   represents hepatic congestion leading to effusion. Already on vanco and
   pip/tazo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-9**] 12:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-9-9**] 05:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-9-8**] 08:22 PM
   Dextrose 50% - [**2154-9-8**] 11:58 PM
   Heparin Sodium (Prophylaxis) - [**2154-9-9**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-9**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 63 (63 - 74) bpm
   BP: 105/60(72) {81/47(55) - 122/65(79)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,561 mL
                                                                  2,652 mL
   PO:
           TF:
   IVF:
                                                                  2,511 mL
                                                                  2,093 mL
   Blood products:
   559 mL
   Total out:
                                                                    470 mL
                                                                    910 mL
   Urine:
                                                                    320 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,091 mL
                                                                  1,742 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.34/30/91.[**Numeric Identifier 143**]/16/-8
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   348 K/uL
   13.7 g/dL
   146 mg/dL
   1.5 mg/dL
   16 mEq/L
   3.0 mEq/L
   47 mg/dL
   110 mEq/L
   138 mEq/L
   40.2 %
   11.3 K/uL
        [image002.jpg]
                            [**2154-9-8**]  07:49 PM
                            [**2154-9-8**]  09:10 PM
                            [**2154-9-9**]  04:42 AM
   WBC
   13.7
   11.3
   Hct
   44.1
   40.2
   Plt
   388
   348
   Cr
   1.6
   1.5
   TCO2
   17
   Glucose
   56
   146
   Other labs: PT / PTT / INR:18.6/29.9/1.7, ALT / AST:31/47, Alk Phos / T
   Bili:242/32.8, Amylase / Lipase:42/55, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.0
   mg/dL
   Microbiology: Urine - pending
   Blood -pending
   Assessment and Plan
   Mrs. [**Known lastname 2655**] is a 48 year old female with PMH of DM, [**Hospital **] transferred from
   OSH with hypotension, bandemia, hypoglycemia, ARF likely secondary to
   sepsis after recent liver biopsy.
   .
   # Sepsis: WBC count with bandemia, hypotension, and likely GI source
   given recent biopsy. Also concern for MRSA with recent
   hospitalization.  Patient was hypotensive overnight requiring 2500 cc
   IVF.  WBC trending down this AM to 11.3.  Other potential sources
   include RLL infiltrate versus effusion, as well as SBP given report of
   ascites from OSH on CT.
   - Continue to cover empirically with vanco and pip/tazo for skin GI
   source and GPC given recent instrumentation and hospitalization.
   - Monitor fever curve and WBC count
   - Bolus for hypotension and low urine output
   - Follow-up culture data from OSH
   - Follow-up urine and blood cultures
   .
   # Hypotension: Likely secondary to sepsis as above.  Patient has not
   been tachycardic for unclear reasons.
   - Plan as above
   - Arterial line/CVL if patient has persistent hypotension.
   .
   # Hypoglycemia/diabetes: Patient has been off of her home regimen of
   insulin.  This may be concerning for hepatic failure given decreased
   synthetic function as reflected by elevated INR and hypoalbuminemia.
   More likely, however, is that hypglycemia is due to sepsis. Other
   potential etiologies include adrenal insufficiency and HCC
   paraneoplastic process.  Patient received D5 1/2NS initially but
   hypoglycemia was not responsive, now on D10 1/2NS
   - Continue D10 1/2NS
   - Hold oral and basal/ISS for now.
   - Continue accuchecks.
   .
   # UTI: UA on admission with pyuria.
   - Continue vancomycin and pip/tazo
   - f/u urine culture
   .
   # Hyperbilirubinemia/hepatic failure: Patient with significant right
   lobe mass now s/p biopsy.  She has very mildly elevated transaminases
   with significant hyperbilirubinemia with mixed conjugated/unconjugated
   picture per OSH lab results. Likely represents cholangiocarcinoma
   versus hepatoma versus metastasis.
   - Follow-up with Hepatology
   - Follow-up with ERCP
   - RUQ with dopplers
   - Review/load OSH radiographic studies
   - f/u hemolysis labs and peripheral smear. If suggestive of hemolysis,
   check Coombs.
   - ERCP today with likely stent placement.
   .
   # Acute renal failure: Creatinine this AM 1.5 and stable.  FeNa of 1.9,
   suggesting ATN consistent with hypotension.
   - Trend creatinine and electrolytes
   - Volume rescucitation as above.
   - Renally dose meds, avoid nephrotoxins.
   .
   # HTN: Hold anti-hypertensives
   .
   # GERD: PPI
   .
   # FEN: NPO for now, replete lytes PRN, Q2hr FS
   .
   # PPX: Heparin SC, protonix
   .
   # ACCESS: PIV
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-8**] 06:43 PM
   20 Gauge - [**2154-9-8**] 08:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-09-09 10:05:00 Physician Attending Progress Note
24 Hour Events:
   48F admitted overnight as transfer from OSH with new jaundice and
   finding of liver mass, concerning for cholangitis.  She was transiently
   hypotensive overnight but responded to fluids.  Otherwise stable,
   awaiting ERCP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-9-9**] 05:15 AM
   Vancomycin - [**2154-9-9**] 08:30 AM
   Other ICU medications:
   Pantoprazole
   Heparin Sodium
   Other medications:
   Flowsheet Data as of  [**2154-9-9**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 64 (63 - 74) bpm
   BP: 117/69(80) {81/47(51) - 122/69(80)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,561 mL
                                                                  3,498 mL
   PO:
           TF:
   IVF:
                                                                  2,511 mL
                                                                  2,651 mL
   Blood products:
   847 mL
   Total out:
                                                                    470 mL
                                                                  1,310 mL
   Urine:
                                                                    320 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,091 mL
                                                                  2,188 mL
   Labs / Radiology
   13.7 g/dL
   348 K/uL
   146 mg/dL
   1.5 mg/dL
   16 mEq/L
   3.0 mEq/L
   47 mg/dL
   110 mEq/L
   138 mEq/L
   40.2 %
   11.3 K/uL
        [image002.jpg]
                            [**2154-9-8**]  07:49 PM
                            [**2154-9-8**]  09:10 PM
                            [**2154-9-9**]  04:42 AM
   WBC
   13.7
   11.3
   Hct
   44.1
   40.2
   Plt
   388
   348
   Cr
   1.6
   1.5
   TCO2
   17
   Glucose
   56
   146
   Other labs: PT / PTT / INR:18.6/29.9/1.7, ALT / AST:31/47, Alk Phos / T
   Bili:242/32.8, Amylase / Lipase:42/55, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.0
   mg/dL
   CXR:  Right sided effusion
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Assessment and Plan
   48F with recently diagnosed liver mass presenting with jaundice;
   transferred here for ERCP.
   1.  ID:  Leukocytosis and biliary obstruction; concern for cholangitis
   and broadly covered.  Transient hypotension; but doubt ongoing sepsis
   given clinical picture; certainly could be related to hypovolemmia.
   - Fluids prn, aline/CVL if needed for evidence of septic shock
   - Continue vancomycin/zosyn
   - Await cultures
   2.  GI:  Obstructive jaundice related to obstructing hepatic mass
   - Awaits ERCP for stenting of obstruction.
   - Had liver biopsy at OSH, will need to follow-up results of biopsy for
   diagnosis.
   - Follow bilirubin, coags, liver function
   3.  Endocrine: Hypoglycemic overnight
 possibly related to infection
   or liver dysfunction, also paraneoplastic processes described with HCC
   related to IGF secretion.
   - continue dextrose
   - follow FSG
   - holding insulin
   4.  Renal:  non-oliguric, Cr 1.5.  Sediment consistent with ATN
   - Monitor volume status, renal function, hemodynamics
   ICU Care
   Nutrition: Currently NPO for ERCP
   Glycemic Control:  Hypoglycemic related to clinical condition
   insulin.
   Lines:
   20 Gauge - [**2154-9-8**] 08:26 PM
   18 Gauge - [**2154-9-9**] 08:00 AM
   Prophylaxis:
   DVT: holding heparin for elevated INR and procedure planned
   Stress ulcer:  PPI
   Code status: Full code
   Disposition :  Remains in ICU today
   Time Spent : 30 min

2154-09-10 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2154-9-9**] 12:30 PM
   - ERCP,liver recs: AFP, CA19-9, CEA, hepatitis serologies sent; ERCP on
   [**9-10**]
   - CT from outside hospital uploaded
   - Culture data from [**Hospital 2672**] hospital - must call between 9am and 5pm
   - No evidence of hemolysis
   - RUQ ultrasound (preliminary read)- 1. Mild intra- and extra-hepatic
   biliary ductal dilatation. 2. Small perihepatic fluid, unclear whether
   this may represent free fluid or a small subcapsular collection, given
   history of a recent liver biopsy. 3. Heterogeneous appearing
   gallbladder, without definite evidence of cholecystitis. However, this
   appearance is suggestive of small stones or sludge. A CT could be
   obtained if clinically indicated to further evaluate the
   perihepatic fluid.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-9**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-9-10**] 04:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-9-9**] 01:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 71 (63 - 80) bpm
   BP: 106/60(71) {90/41(52) - 122/76(87)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,191 mL
                                                                    360 mL
   PO:
             TF:
   IVF:
                                                                  4,344 mL
                                                                    360 mL
   Blood products:
                                                                    847 mL
   Total out:
                                                                  3,015 mL
                                                                  1,025 mL
   Urine:
                                                                  3,015 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,176 mL
                                                                   -665 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   326 K/uL
   13.8 g/dL
   192 mg/dL
   1.2 mg/dL
   16 mEq/L
   3.4 mEq/L
   30 mg/dL
   109 mEq/L
   135 mEq/L
   41.4 %
   12.5 K/uL
        [image002.jpg]
                            [**2154-9-8**]  07:49 PM
                            [**2154-9-8**]  09:10 PM
                            [**2154-9-9**]  04:42 AM
                            [**2154-9-9**]  04:39 PM
                            [**2154-9-10**]  04:05 AM
   WBC
   13.7
   11.3
   12.5
   Hct
   44.1
   40.2
   41.4
   Plt
   388
   348
   326
   Cr
   1.6
   1.5
   0.8
   1.2
   TCO2
   17
   Glucose
   56
   146
   298
   192
   Other labs: PT / PTT / INR:23.0/30.9/2.2, ALT / AST:31/40, Alk Phos / T
   Bili:217/33.1, Amylase / Lipase:42/51, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.8 g/dL, LDH:221 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.5 mg/dL
   Imaging: RUQ US: 1. Mild intra- and extra-hepatic biliary ductal
   dilatation.
   2. Small perihepatic fluid, unclear whether this may represent free
   fluid or a small subcapsular collection, given history of a recent
   liver biopsy.
   3. Heterogeneous appearing gallbladder, without definite evidence of
   cholecystitis. However, this appearance is suggestive of small stones
   or sludge.
   Microbiology: Blood, urine - NGTD
   Assessment and Plan
   Mrs. [**Known lastname 2655**] is a 48 year old female with PMH of DM, [**Hospital **] transferred from
   OSH with hypotension, bandemia, hypoglycemia, ARF likely secondary to
   sepsis after recent liver biopsy.
   .
   # Sepsis/hypotension: Continues to have elecated WBC today to 12.5.
   Likely source is hepatobiliary given recent instrumentation as well as
   hepatobiliary pathology as reflected by hyperbilirubinemia.  Other
   possible source is pneumonia given CXR demonstrating increased
   right-sided infiltrate.
   - Continue vanocmycin and pip/tazo.
   - Sputum culture
   - Follow-up cultures
   - Fullow-up culture data from OSH
   - Bolus for MAP<65.
   .
   # Hypoglycemia/diabetes: FSB 135-190 yesterday.  Getting D51/2 NS at
   25cc/hr.  Patient has been off of her home regimen of insulin.
   Potential etiologies to hypoglycemia include liver failure although
   unlikely given transaminases, adrenal insufficiency, HCC pananeoplastic
   process, or drug-related.
   - Continue D5 1/2 NS
   - Accuchecks
   - Continue hold ISS and basal insulin for now.
   .
   # UTI: UA on admission with pyuria.
   - Continue vancomycin and pip/tazo
   - f/u urine culture
   .
   # Hyperbilirubinemia/hepatic failure: Patient with significant right
   lobe mass now s/p biopsy.  She has very mildly elevated transaminases
   with significant hyperbilirubinemia with mixed conjugated/unconjugated
   picture per OSH lab results. Likely represents cholangiocarcinoma
   versus hepatoma versus metastasis.  Hemolysis labs negative.  Viral
   serologies pending.  RUQ ultrasound yesterday.
   - Follow-up with Hepatology
   - ERCP today with likely stenting
   - Review/load OSH radiographic studies
   - Follow-up OSH liver biopsy data
   .
   # Acute renal failure: Creatinine this AM trending down to 1.2. FeNa of
   1.9 suggesting ATN consistent with hypotension.
   - Trend creatinine and electrolytes
   - Renally dose meds, avoid nephrotoxins.
   .
   # HTN: Hold anti-hypertensives
   .
   # GERD: PPI
   .
   # FEN: NPO for now, replete as necessary
   .
   # PPX: Heparin SC, PPI
   .
   # ACCESS: PIV
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-9-8**] 08:26 PM
   18 Gauge - [**2154-9-9**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-09-11 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ERCP - At [**2154-9-10**] 05:30 PM
   - Given 4U FFP prior to ERCP today. INR did not change post
   transfusion.
   - Pruritus over back since yesterday likely related to
   hyperbilirubinemia. Also developed hives during third unit of FFP,
   transfusion stopped and 25 mg IV benadryl given.
   - Called OSH: Pathology did not reveal tumor and only fibrosis??
   Possible they missed the mass.  Blood cultures NGTD and urine cx
   negative.
   - ERCP: large stricture involving the R hepatic (complete), L hepatic
   partial and the porta hepatis.  Fluro machine was not working properly
   so couldn't evaluate fully.  Placed a plastic stent in the common/right
   biliary duct.  Sent sample for cytology. Did not do sphincterotomy b/c
   INR 2.2.  Can repeat ERCP tomorrow or next day if hyperbili does not
   resolve.  Recommend: repeat FNA (CT-guided) of mass if no dx from OSH
   (waiting for further stains).  If not a surgical candidate can place
   metal stent in the future.
   - ERCP fellow wanted an MRCP for better eval of the mass/stricture.
   Ordered for tomorrow.
   - ERCP request post-ERCP KUB: contrast in gallbladder and left biliary
   system. no free air. No obstructive bowel gas pattern.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-10**] 07:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-9-10**] 10:32 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Abdominal pain is improved; good appetite; 1 bowel movement yesterday
   Flowsheet Data as of  [**2154-9-11**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 68 (61 - 79) bpm
   BP: 128/78(90) {104/63(72) - 145/86(101)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,006 mL
                                                                    138 mL
   PO:
             TF:
   IVF:
                                                                  1,895 mL
                                                                    138 mL
   Blood products:
                                                                  1,111 mL
   Total out:
                                                                  2,375 mL
                                                                    920 mL
   Urine:
                                                                  2,375 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS: +7.3L
                                                                    631 mL
                                                                   -782 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   Gen: Resting comfortably, NAD
   Skin: Jaundiced
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Decreased breath sounds right base; no wheezes, rales, rhonchi
   Abd: Decreased bowel sounds; obese; soft; nontender
   Ext: Trace pitting edema
   Labs / Radiology
   334 K/uL
   12.8 g/dL
   98 mg/dL
   1.1 mg/dL
   17 mEq/L
   2.9 mEq/L
   23 mg/dL
   118 mEq/L
   146 mEq/L
   37.9 %
   12.4 K/uL
        [image002.jpg]
   Ca 7.8, Mg 2.0, Phos 2.4
   INR 1.8, PTT 29.5
   Tbili 33.1>28.7
   Alk phos 217>168
   AST 40>36
   ALT 31>26
   LDH 221>157
   Amylase 42>565
   Lipase 51>1443
                            [**2154-9-8**]  07:49 PM
                            [**2154-9-8**]  09:10 PM
                            [**2154-9-9**]  04:42 AM
                            [**2154-9-9**]  04:39 PM
                            [**2154-9-10**]  04:05 AM
                            [**2154-9-11**]  05:19 AM
   WBC
   13.7
   11.3
   12.5
   12.4
   Hct
   44.1
   40.2
   41.4
   37.9
   Plt
   388
   348
   326
   334
   Cr
   1.6
   1.5
   0.8
   1.2
   1.1
   TCO2
   17
   Glucose
   56
   146
   298
   192
   98
   Other labs: PT / PTT / INR:19.0/29.5/1.8, ALT / AST:26/36, Alk Phos / T
   Bili:168/28.7, Amylase / Lipase:[**Telephone/Fax (1) 2692**], Differential-Neuts:91.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:157 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Urine culture
 No growth, final
   Blood culture
 No growth to date
   Assessment and Plan
   48 year old female with DM, HTN, and recently found liver mass,
   transferred from OSH with hypotension, bandemia, hypoglycemia, ARF
   likely secondary to sepsis after recent liver biopsy. Currently stable
   and awaiting identification of mass.
   #. Hyperbilirubinemia/hepatic failure/liver mass: Right lobe mass now
   s/p biopsy.  Mildly elevated transaminases with significant
   hyperbilirubinemia with mixed conjugated/unconjugated picture per OSH
   lab results
 hyperbilirubinemia improving after ERCP yesterday. Final
   mass biopsy data from OSH
 no evidence of malignancy
   (fibrosis/inflammation). Viral serologies pending. s/p ERCP [**2154-9-10**] -
   plastic stent placed in common/right biliary duct, could not fully
   evaluate biliary tree due to malfunctioning fluoro machine, cytology
   sent
   - Hepatology recs
   - ERCP recs - MRCP ordered for better eval of mass/stricture
 may not
   be necessary given that MRI was done at OSH; may order CT-guided FNA
   given no definitive diagnosis from OSH; possible repeat ERCP if
   hyperbilirubinemia does not improve
   #. Sepsis/hypotension, now resolved: Patient was normotensive
   overnight. Continues to have elevated WBC today to 12.4.  Likely source
   was hepatobiliary given recent instrumentation. Hypotension on
   admission may also have had an intravascular hypovolemic component.
   - Continue pip/tazo as patient likely to have repeat instrumentation;
   currently day 3
   - Discontinue vancomycin as patient with all negative cultures to date
   - Follow-up cultures
   - Bolus for MAP<65, decreased UOP, worsening mentation
   #. Hypernatremia: Likely due to IVF. Free water deficit 2.45L
   - Encourage patient to drink water
   # Hypoglycemia/diabetes: FS 98-175 over past 24 hours. Patient has been
   off of her home regimen of insulin.  Potential etiologies to
   hypoglycemia included liver failure although unlikely given
   transaminases, adrenal insufficiency, HCC pananeoplastic process, or
   drug-related.
   - D5
 NS as necessary for hypoglycemia.
   - Accuchecks
   - Continue hold ISS and basal insulin for now.
   # UTI: UA on admission with pyuria. OSH urine culture with no growth.
   Urine culture no growth.
   - Currently on Zosyn
   # Acute renal failure: Creatinine this AM trending down to 1.1. FeNa of
   1.9 initially suggested ATN consistent with hypotension.
   - Trend creatinine and electrolytes
   # HTN: Hold anti-hypertensives
   # GERD: PPI
   # FEN: NPO for now, replete as necessary
   # PPX: Heparin SC, PPI
   # ACCESS: PIV
   # CODE: FULL
   # DISPO: Call out today
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-8**] 06:43 PM
   20 Gauge - [**2154-9-8**] 08:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: